US07531532B2
N-(2-Fluoro-4-{2-[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)-N′-(4-fluorophenyl)malonamide
To a solution of N-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)malonamide (30 mg) in tetrahydrofuran (2.4 ml) was added triethylamine (0.021 ml), and then phenyl chloroformate (0.0189 ml) was added dropwise thereto while cooling in an ice water bath, followed by stirring for 20 min. The reaction mixture was concentrated under a reduced pressure. To a suspension of the residue in N,N-dimethylformamide (1.2 ml) was added pyrrolidine (0.0251 ml) while cooling in an ice water bath, followed by raising the temperature to room temperature and stirring for 1 hr. The reaction mixture was partitioned between ethyl acetate (50 ml) and a 1 N aqueous solution of sodium hydroxide (30 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2, ethyl acetate, then ethyl acetate:methanol=10:1). Fractions containing the target compound were concentrated to give a residue, which was then further subjected to silica gel filtration (FUJI Silysia NH). The filtrate was concentrated under a reduced pressure to give a residue, to which hexane (3 ml), diethyl ether (1 ml) and ethanol (1 drop) were added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (12.3 mg, 33.0%) as pale red powder.

reactant | N-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]-N′-(4-fluorophenyl)malonamide | 30 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(CC(=O)NC1=CC=C(C=C1)F)=O)F | C20H16F2N4O3
reactant | triethylamine | 0.021 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.0189 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hexane | 3 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 2.4 ml | O1CCCC1 | C4H8O
catalyst | ethanol | 1 drop | C(C)O | C2H6O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | N-(2-Fluoro-4-{2-[(pyrrolidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)-N′-(4-fluorophenyl)malonamide | 12.3 mg, 33.0% | FC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCCC1)NC(CC(=O)NC1=CC=C(C=C1)F)=O | C25H23F2N5O4
